US04104397
Preparation of 2-Methyl spiro (1,3-dioxolane-4,3')Quinuclidine
To a stirred suspension of 17.5 g. lithium aluminum hydride in 100 ml dry tetrahydrofuran there was added during 1 hour a solution of 3-carbomethoxy-3-quinuclidinol tetrahydrofuran, 50 g in 100 ml. This was prepared according to Grob. Helv. Chim. Acta, 37, 1689 (1954). The reaction mixture was refluxed during 41/2 hours, treated with 20 ml ethyl acetate under nitrogen, then with water (17 ml) then with 15% aqueous sodium hydroxide (17 ml.), and again with water, 51 ml. The resulting mixture was filtered and the filtrate was evaporated under reduced pressure, leaving as residue a syrup, 35 g., comprising 3-hydroxymethyl-3-quinuclidinol. A quantity of 5 g. of this syrup was treated with 20 ml. acetaldehyde and 20 ml. of methylene chloride. The resulting emulsion was cooled to 0° C and treated under agitation with 20 ml boron trifluoride ethereate for 1 hour. The resulting mixture was then poured on water containing an excess of potassium hydroxide and stirred until a complete decomposition of boron trifluoride had taken place. The mixture was extracted with ether and the extract was subjected to evaporation under reduced pressure. The residue consisted of crude 2-methyl spiro (1,3-dioxolane-4,3') quinuclidine, B.P.=68°-72° at 0.2 mm-Hg , Rf on neutral alumina (ethyl acetate) = 0.6; M+ - 183. This product consists of a mixture of the two isomers wherein the methyl group is in one case in the cis-position (70%), the other in the trans-position (30%) respective to the nitrogen of the ring. The mixture was resolved into the two isomers by column chromatography on neutral alumina with ethyl acetate. The hydrochlorides of these were prepared by treatment of the two substances in dry acetone with gaseous hydrogen chloride, M.P. (cis-isomer) 233.8° (dec.); of the mixture : 234.2° (dec.).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-carbomethoxy-3-quinuclidinol tetrahydrofuran | O1CCCC1.C(=O)(OC)C1(CN2CCC1CC2)O
reactant | sodium hydroxide | 17 ml | [OH-].[Na+]
reactant | 3-hydroxymethyl-3-quinuclidinol | OCC1(CN2CCC1CC2)O | C8H15NO2
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | boron trifluoride | 20 ml | B(F)(F)F | BF3
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | water | 17 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-Methyl spiro (1,3-dioxolane-4,3')Quinuclidine | CC1OCC2(O1)CN3CCC2CC3 | C10H17NO2
